US05874440
6-Butyramido-2-(2-propoxyphenyl)pyrimidin-4[3H]-one
A stirred solution of 6-amino-2-(2-propoxyphenyl)pyrimidin-4[3H]-one (0.68 g) and n-butyric anhydride (7 ml) was heated at 140° C. for 5 hours. Ethanol was added to the cooled reaction mixture which was then evaporated under reduced pressure to yield a residue which was azeotroped and washed with water. The residue was eluted from silica with chloroform and the combined fractions containing product were evaporated under reduced pressure to yield a crude product which was recrystallized from isopropanol:diethyl ether to yield the title compound, 0.21 g, m.p. 177°-80° C.

reactant | 6-amino-2-(2-propoxyphenyl)pyrimidin-4[3H]-one | 0.68 g | NC1=CC(NC(=N1)C1=C(C=CC=C1)OCCC)=O | C13H15N3O2
reactant | n-butyric anhydride | 7 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | Ethanol | C(C)O | C2H6O
product | 6-Butyramido-2-(2-propoxyphenyl)pyrimidin-4[3H]-one | C(CCC)(=O)NC1=CC(NC(=N1)C1=C(C=CC=C1)OCCC)=O | C17H21N3O3
